US08476253B2
Methyl 4-(methylamino)butanoate hydrochloride
4-(Methylamino)butanoic acid hydrochloride (22.1 g, 144 mmol) was dissolved in methanol (560 mL), thionyl chloride (42 mL) was added under ice cooling, and then the mixture was stirred at room temperature for 24 hours. After the reaction was completed, the solvent was evaporated under reduced pressure, and the resulting white solid was washed with a mixed solvent of dichloromethane (30 mL) and hexane (300 mL) to give the title compound (21.2 g; yield, 88%) as a white solid.

reactant | 4-(Methylamino)butanoic acid hydrochloride | 144 mmol, 22.1 g | Cl.CNCCCC(=O)O
reactant | thionyl chloride | 42 mL | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 560 mL | CO | CH4O
product | Methyl 4-(methylamino)butanoate hydrochloride | 21.2 g, 88% | Cl.CNCCCC(=O)OC | InChI=1S/C6H13NO2.ClH/c1-7-5-3-4-6(8)9-2;/h7H,3-5H2,1-2H3;1H
